US04364875
4-Chloro-3-(2,5-dichloro-4-bromo-phenoxy)-6-nitro-N-allyl-aniline
A mixture of 4.9 gm of 2-chloro-4-nitro-5-phenoxy-1-(2,5-dichloro-4-bromo-phenoxy)-benzene, 1.8 gm of allylamine and 10 ml of dioxane was stirred first for 7 hours at 40° C. and then for 3 hours at 60° C. Thereafter, the reaction solution was evaporated, the residue was taken up in chloroform, and the resulting solution was washed first with an acid solution and then with an alkaline solution, dried with sodium sulfate and evaporated. The raw reaction product thus obtained (5.6 gm) was purified on a silicagel column, yielding 3.0 gm (66.6% of theory) of the yellow crystalline title compound, m.p. 102.5° C.

reactant | 2-chloro-4-nitro-5-phenoxy-1-(2,5-dichloro-4-bromo-phenoxy)-benzene | 4.9 gm | ClC1=C(C=C(C(=C1)[N+](=O)[O-])OC1=CC=CC=C1)OC1=C(C=C(C(=C1)Cl)Br)Cl | C18H9BrCl3NO4
reactant | allylamine | 1.8 gm | C(C=C)N | C3H7N
solvent | dioxane | 10 ml | O1CCOCC1 | C4H8O2
product | 4-Chloro-3-(2,5-dichloro-4-bromo-phenoxy)-6-nitro-N-allyl-aniline | ClC1=C(C=C(NCC=C)C(=C1)[N+](=O)[O-])OC1=C(C=C(C(=C1)Cl)Br)Cl | C15H10BrCl3N2O3
